US08377970B2
N-{2-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyrimidin-5-yl}-4-methylpyrimidine-5-carboxamide
Step-3: N-{2-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyrimidin-5-yl}-2-[(dimethylamino)methylene]-3-oxobutanamide (0.3 g, 0.78 mmol) and formamidine acetate (98 mg, 0.94 mmol) were dissolved in ethanol and added NaOEt (60 mg, 0.94 mmol). The above mixture was refluxed for 3 h. Ethanol was removed on rotavapour and worked up (H2O/AcOEt) to obtain the crude. Crude was purified by column on 60-120 mesh silica gel using AcOEt and Petether (1:1) as eluent to obtain the title compound (12 mg) as a brown solid. M.P.: 201-203° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.29 (s, 1H), 9.26 (s, 2H), 9.19 (s, 1H), 8.99 (s, 1H), 6.68 (s, 1H), 2.64 (s, 3H), 2.55-2.49 (m, 1H), 1.02-0.94 (m, 2H), 0.83-0.75 (m, 2H). MS (m/z): 389.93 [M+H]+.

reactant | N-{2-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyrimidin-5-yl}-2-[(dimethylamino)methylene]-3-oxobutanamide | 0.78 mmol, 0.3 g | C1(CC1)C1=CC(=NN1C1=NC=C(C=N1)NC(C(C(C)=O)=CN(C)C)=O)C(F)(F)F | C18H19F3N6O2
reactant | formamidine acetate | 0.94 mmol, 98 mg | C(C)(=O)O.C(=N)N
reactant | NaOEt | 0.94 mmol, 60 mg | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-{2-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyrimidin-5-yl}-4-methylpyrimidine-5-carboxamide | 12 mg | C1(CC1)C1=CC(=NN1C1=NC=C(C=N1)NC(=O)C=1C(=NC=NC1)C)C(F)(F)F | C17H14F3N7O
